US05008426
10. 6-(2,4,6-Trimethylbenzoyl)-(6H)-dibenz[c,e][1,2]oxaphosphorin 6-oxide
18.25 g (0.1 mol) of 2,4,6-trimethylbenzoyl chloride were warmed to 85° C. under a nitrogen atmosphere 23 g (0.1 mol) of 6-methoxy-(6H)-dibenz[c,e][1,2]-oxaphosphorin were added dropwise while stirring. The temperature was slowly increased to 105° C. It was kept at this temperature until evolution of methyl chloride could no longer be detected. When the reaction was complete, toluene was added. After crystallization, 27 g (75% of theory) of the abovementioned compound of melting point 109° C. were obtained.

reactant | 2,4,6-trimethylbenzoyl chloride | 0.1 mol, 18.25 g | CC1=C(C(=O)Cl)C(=CC(=C1)C)C | C10H11ClO
reactant | 6-methoxy-(6H)-dibenz[c,e][1,2]-oxaphosphorin | 0.1 mol, 23 g | COP1OC2=C(C3=C1C=CC=C3)C=CC=C2 | C13H11O2P
reactant | methyl chloride | CCl | CH3Cl
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-(2,4,6-Trimethylbenzoyl)-(6H)-dibenz[c,e][1,2]oxaphosphorin 6-oxide | CC1=C(C(=O)P2(OC3=C(C4=C2C=CC=C4)C=CC=C3)=O)C(=CC(=C1)C)C | C22H19O3P
